US08067459B2
Synthesis of isopropyl 2-methyl-5,6-dioxo-2,3,5,6-tetrahydronaphtho[1,2-b][1,4]oxathiine-2-carboxylate (Compound 19)
To round bottom flask containing sodium hydrosulfide (0.582 g, 10.4 mmol) in isopropanol (20 mL) was added methyl 2-methyloxirane-2-carboxylate (1.0 mL, 9.44 mmol). The reaction mixture was stirred at room temperature for 2.5 hours. To the reaction mixture was then added water (20 ml) and the pH adjusted to 2 with 2 N HCl. The reaction mixture was extracted with diethyl ether (3×50 mL). The organic extracts were combined, dried with sodium sulfate and concentrated under reduced pressure. The resulting crude isopropyl 3-mercapto-2-methyl-2-propanoate obtained was used in the next reaction with naphthalene-1,2-dione trifluoroacetic acid as outlined for example 21. The final desired product isopropyl 2-methyl-5,6-dioxo-2,3,5,6-tetrahydronaphtho[1,2-b][1,4]oxathiine-2-carboxylate was obtained as a dark red solid (overall yield 5% for the three steps). M.p.=168-169° C.; 400 MHz 1H NMR (CDCl3) δ: 8.06 (dd, J=7.7, 1.1 Hz, 1H), 7.83 (dd, J=7.7, 0.9 Hz, 1H), 7.66 (td, J=7.7, 1.4 Hz, 1H), 7.49 (td, J=7.5, 1.1 Hz, 1H), 5.08 (septuplet, J=6.3 Hz, 1H), 3.35 (d, J=13.2 Hz, 1H), 3.03 (d, J=13.2 Hz, 1H), 1.86 (s, 3H), 1.27 (d, J=6.3 Hz, 3H), 1.26 (d, J=6.3 Hz, 3H); LCMS: 333 [M+H]; Calc. for C17H16O5S: C, 61.43; H, 4.85; N, 0. Found C, 61.93; H, 4.92; N, 0.04.

reactant | sodium hydrosulfide | 10.4 mmol, 0.582 g | [SH-].[Na+]
reactant | methyl 2-methyloxirane-2-carboxylate | 9.44 mmol, 1.0 mL | CC1(OC1)C(=O)OC | C5H8O3
reactant | HCl | 2 N | Cl | ClH
reactant | naphthalene-1,2-dione trifluoroacetic acid | FC(C(=O)O)(F)F.C1(C(C=CC2=CC=CC=C12)=O)=O
reactant | isopropanol | 20 mL | C(C)(C)O | C3H8O
solvent | water | 20 ml | O | H2O
product | isopropyl 2-methyl-5,6-dioxo-2,3,5,6-tetrahydronaphtho[1,2-b][1,4]oxathiine-2-carboxylate | CC1(CSC2=C(O1)C1=CC=CC=C1C(C2=O)=O)C(=O)OC(C)C | C17H16O5S
